US07744657B2
Stage 1: Synthesis of 2,2′-(disulfanediyldiethane-2,1-diyl)bis(5,6,7,8-tetrahydroisoquinolinium) dimethane sulfonate
3.2 g of 5,6,7,8-tetrahydroisoquinoline and 0.7 g of potassium carbonate were mixed in 3 ml of acetonitrile and brought to 80° C. A solution of 3.4 g of disulfanediyldiethane-2,1-diyl dimethane sulfonate in 3 ml of acetonitrile was added in 10 min. Stirring was maintained for 8 h at 80° C. and then the reaction medium was brought back to ambient temperature, filtered, and concentrated under vacuum. 6 ml of dichloromethane were added and the solution was poured dropwise into 500 ml of ethyl ether. The oil that had been separated by settling out was reprocessed twice by diluting in 6 ml of methanol and adding to 500 ml of ethyl ether, and a final time by diluting in 6 ml of dichloromethane and adding to 500 ml of ethyl ether. After drying under vacuum, 5.2 g of brown solid were recovered. The analyses were in compliance with the expected structure.

reactant | 5,6,7,8-tetrahydroisoquinoline | 3.2 g | C1=NC=CC=2CCCCC12 | C9H11N
reactant | potassium carbonate | 0.7 g | C([O-])([O-])=O.[K+].[K+]
reactant | disulfanediyldiethane-2,1-diyl dimethane sulfonate | 3.4 g | CS(=O)(=O)OCCSSCCOS(=O)(=O)C | C6H14O6S4
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
product | 2,2′-(disulfanediyldiethane-2,1-diyl)bis(5,6,7,8-tetrahydroisoquinolinium) dimethane sulfonate | CS(=O)(=O)[O-].CS(=O)(=O)[O-].S(SCC[N+]1=CC=2CCCCC2C=C1)CC[N+]1=CC=2CCCCC2C=C1 | InChI=1S/C22H30N2S2.2CH4O3S/c1-3-7-21-17-23(11-9-19(21)5-1)13-15-25-26-16-14-24-12-10-20-6-2-4-8-22(20)18-24;2*1-5(2,3)4/h9-12,17-18H,1-8,13-16H2;2*1H3,(H,2,3,4)/q+2;;/p-2
